US07763657B2
4-Methanesulfonylamino-3-vinyl-benzylamine and HCl salt (153 mg, 0.582 mmol) were reacted with 3-(4-tert-butyl-phenyl)-2-phenyl-acrylic acid (160.4 mg) to give 3-(4-tert-butyl-phenyl)-N-(4-methanesulfonylamino-3-vinyl-benzyl)-2-phenyl-acrylamide (130.8 mg, 46%).

reactant | 4-Methanesulfonylamino-3-vinyl-benzylamine | CS(=O)(=O)NC1=C(C=C(CN)C=C1)C=C | C10H14N2O2S
reactant | HCl | 0.582 mmol, 153 mg | Cl | ClH
reactant | 3-(4-tert-butyl-phenyl)-2-phenyl-acrylic acid | 160.4 mg | C(C)(C)(C)C1=CC=C(C=C1)C=C(C(=O)O)C1=CC=CC=C1 | C19H20O2
product | 3-(4-tert-butyl-phenyl)-N-(4-methanesulfonylamino-3-vinyl-benzyl)-2-phenyl-acrylamide | 130.8 mg, 46% | C(C)(C)(C)C1=CC=C(C=C1)C=C(C(=O)NCC1=CC(=C(C=C1)NS(=O)(=O)C)C=C)C1=CC=CC=C1 | C29H32N2O3S
